US04243406
The procedure of Example 22 was employed utilizing ethyl-2-(2'-methylbenzoyl)-3-dimethylaminopropenoate in lieu of ethyl-2-(2'-chlorobenzoyl)-3-dimethylaminopropenoate to yield ethyl-5-(2'-methylphenyl)-4-isoxazolecarboxylate (1.9 g.; 82.6% yield) as an oil having the following analysis:

reactant | ethyl-2-(2'-methylbenzoyl)-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=C(C=CC=C1)C)=O)=O | C15H19NO3
reactant | ethyl-2-(2'-chlorobenzoyl)-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=C(C=CC=C1)Cl)=O)=O | C14H16ClNO3
product | ethyl-5-(2'-methylphenyl)-4-isoxazolecarboxylate | 1.9 g, 82.6% yield | C(C)OC(=O)C=1C=NOC1C1=C(C=CC=C1)C | C13H13NO3
